US04772600
2-(4-Chlorophenyl)-N-[2-(dimethylamino)ethyl]-3H-imidazo[4,5-b]pyridine-3-acetamide
A stream of nitrogen was bubbled through a stirred suspension of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (4.50 g, 0.0157 mole), 1,1'-carbonyldiimidazole (2.54 g, 0.0157 mole) and anhydrous methylene chloride (100 ml) for 2 hrs at room temperature. A solution of N,N-dimethylethylenediamine (1.50 g, 0.0170 mole) in 10 ml of methylene chloride was added dropwise and the reaction mixture was stirred overnight at room temperature. The methylene chloride was washed with water (2×30 ml), 5% sodium hydroxide (2×30 ml), water (30 ml), dried over sodium sulfate and concentrated. The residue (4.5 g) was recrystallized from isopropyl alcohol to give 3.5 g (62%) of white flakes, mp 195°-196.5° C.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0157 mole, 4.50 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.0157 mole, 2.54 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,N-dimethylethylenediamine | 0.0170 mole, 1.50 g | CN(CCN)C | C4H12N2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-Chlorophenyl)-N-[2-(dimethylamino)ethyl]-3H-imidazo[4,5-b]pyridine-3-acetamide | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NCCN(C)C | C18H20ClN5O
